US07968746B2
Oxidation as described in protocol B, using 95 mg (0.311 mmol) of N-tert-butyl-6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide and 358 mg CAN (0.653 mmol) yielded 92.2 mg of N-tert-butyl-2-hydroxy-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide as a yellow solid.

reactant | N-tert-butyl-6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide | 0.311 mmol, 95 mg | C(C)(C)(C)NC(=O)C1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C | C18H27NO3
reactant | CAN | 0.653 mmol, 358 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
product | N-tert-butyl-2-hydroxy-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide | 92.2 mg | C(C)(C)(C)NC(C(CCC1=C(C(C(=C(C1=O)C)C)=O)C)(C)O)=O | C18H27NO4
